US07786105B2
1-(4-{4-[2-tert-Butyl-6-(trifluoromethyl)pyrimidin-4-yl]piperazin-1-yl}butyl)-1,3,4,5-tetrahydro-2H-1-benzazepin-2-one
A mixture of 1-(4-chlorobutyl)-1,3,4,5-tetrahydro-2H-1-benzazepin-2-one and 1-(4-bromobutyl)-1,3,4,5-tetrahydro-2H-1-benzazepin-2-one (0.40 g), 2-tert-butyl-4-piperazin-1-yl-6-(trifluoromethyl)pyrimidine (1.59 mmol, 0.46 g, prepared as in DE 19735410), NaBr (7.94 mmol, 0.82 g), diisopropylethylamine (15.57 mmol, 2.01 g) and N-methylpyrrolidinone (0.6 ml) was heated at 120° C. for 5 hours. The suspension was then filtered, and the filtrate was evaporated to dryness. The residue was taken up in ethyl acetate and extracted with saturated brine. The organic phase was dried, the desiccant was filtered off, and the solution was evaporated to dryness. The residue was purified by chromatography on silica gel (eluent: dichloromethane/MeOH (0-100%), resulting in 0.58 g of the title compound.

reactant | 1-(4-chlorobutyl)-1,3,4,5-tetrahydro-2H-1-benzazepin-2-one | ClCCCCN1C(CCCC2=C1C=CC=C2)=O | C14H18ClNO
reactant | 1-(4-bromobutyl)-1,3,4,5-tetrahydro-2H-1-benzazepin-2-one | 0.40 g | BrCCCCN1C(CCCC2=C1C=CC=C2)=O | C14H18BrNO
reactant | 2-tert-butyl-4-piperazin-1-yl-6-(trifluoromethyl)pyrimidine | 1.59 mmol, 0.46 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCNCC1)C(F)(F)F | C13H19F3N4
reactant | NaBr | 7.94 mmol, 0.82 g | [Na+].[Br-]
reactant | diisopropylethylamine | 15.57 mmol, 2.01 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N-methylpyrrolidinone | 0.6 ml | CN1C(CCC1)=O | C5H9NO
product | 1-(4-{4-[2-tert-Butyl-6-(trifluoromethyl)pyrimidin-4-yl]piperazin-1-yl}butyl)-1,3,4,5-tetrahydro-2H-1-benzazepin-2-one | 0.58 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN1C(CCCC2=C1C=CC=C2)=O)C(F)(F)F | C27H36F3N5O
